US06121182
(1-1) 3-((trimethylsilyl)oxy)indene
In a 2-liter flask were charged 38.2 g (0.378 mol) of diisopropylamine and 265 ml of tetrahydrofuran (THF). The mixture was cooled to 0° C. and 229 ml of a hexane solution of 1.65 M n-butyllithium was added thereto. After 15 minutes' stirring, the mixture turned dark brown. The solution was further cooled to -78° C., to which was added 50 ml of a THF solution of 50 g (378 mmol) of 1-indanone and the resulting mixture was stirred for 30 minutes. Then, 205 g (1.89 mol) of trimethylsilyl chloride was added at -78° C., and the coolant was removed to raise the temperature to room temperature followed by stirring for 2 hours.

reactant | diisopropylamine | 0.378 mol, 38.2 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.65 M | C(CCC)[Li]
reactant | 1-indanone | 378 mmol, 50 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | trimethylsilyl chloride | 1.89 mol, 205 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | 229 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 265 ml | O1CCCC1 | C4H8O
product | 3-((trimethylsilyl)oxy)indene | C[Si](OC1=CCC2=CC=CC=C12)(C)C | C12H16OSi
